US07279494B2
V. (2E)-3-{2,6-difluoro-4-[(isopropoxycarbonyl)amino]phenyl}prop-2-enyl diazoacetate
Glyoxylic acid chloride p-toluenesulfonylhydrazone (4.64 g, 17.8 mmol) was added to a suspension of isopropyl 3,5-difluoro-4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate (2.68 g, 9.89 mmol) in dichloromethane (66 mL). The mixture was cooled to 0° C. and treated with N,N-dimethylaniline (2.26 mL, 17.8 mmol). After 30 minutes, triethylamine (6.89 mL, 49.5 mmol) was added and the mixture stirred 30 minutes at 0° C. and 15 minutes at room temperature. The reaction mixture was then concentrated to ca. 15 mL and 50 mL of water added. The mixture was extracted with two portions of diethyl ether and the combined organic solutions washed with saturated NaHCO3, brine, and dried (MgSO4), filtered and concentrated. Purification by column chromatography (0-25% ethyl acetate-hexane) provided the title compound a yellow solid.

reactant | Glyoxylic acid chloride p-toluenesulfonylhydrazone | 17.8 mmol, 4.64 g | C1(=CC=C(C=C1)S(=O)(=O)NN=CC(=O)Cl)C | C9H9ClN2O3S
reactant | isopropyl 3,5-difluoro-4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate | 9.89 mmol, 2.68 g | FC=1C=C(C=C(C1\C=C\CO)F)NC(OC(C)C)=O | C13H15F2NO3
reactant | N,N-dimethylaniline | 17.8 mmol, 2.26 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | triethylamine | 49.5 mmol, 6.89 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 66 mL | ClCCl | CH2Cl2
product | (2E)-3-{2,6-difluoro-4-[(isopropoxycarbonyl)amino]phenyl}prop-2-enyl diazoacetate | [N+](=[N-])=CC(=O)OC\C=C\C1=C(C=C(C=C1F)NC(=O)OC(C)C)F | C15H15F2N3O4
